US05059597
a) trans-1-Benzyl-3-hydroxy-4-methoxypyrrolidine
34.9 g (0.2 mol) of 3-benzyl-6-oxa-3-azabicyclo[3.1.0]hexane (U.S. Pat. No. 4,254,135) are heated with 3.6 g (20 mmol) of sodium methylate solution (30% strength) at 120° C. in 200 ml of absolute methanol in an autoclave for 10 hours. After cooling, the mixture is neutralized with 1.2 g (20 mmol) of acetic acid and the solvent is removed on a rotary evaporator. The residue is taken up in tetrahydrofuran and the sodium acetate is filtered off. The filtrate is concentrated and the residue is distilled.

reactant | 3-benzyl-6-oxa-3-azabicyclo[3.1.0]hexane | 0.2 mol, 34.9 g | C(C1=CC=CC=C1)N1CC2OC2C1 | C11H13NO
reactant | sodium methylate | 20 mmol, 3.6 g | C[O-].[Na+]
reactant | acetic acid | 20 mmol, 1.2 g | C(C)(=O)O | C2H4O2
solvent | methanol | 200 ml | CO | CH4O
product | trans-1-Benzyl-3-hydroxy-4-methoxypyrrolidine | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)OC)O | C12H17NO2
